US08193246B2
Synthesis of Hexadecanoic acid 1-{[(19-carboxy-nonadecyl)-dimethyl-ammonium]methyl-2-hexadecanoyloxy-ethyl ester (w20-DPTAP)
w-20-DPTAP was synthesized as described in example 19 step c using 11.45 g (2,3-Bis-hexadecanoyloxy-propyl)-(20-hydroxy-icosyl)-dimethyl-ammonium bromide, 0.039 g TEMPO, 0.294 g KBr, 0.2 g Aliquat™ and 1.1 g NaHCO3 dissolved in 73.7 ml sodium hypochlorite. The crude product was filtered through silica gel and after a washing step with chloroform/methanol 4:1 the product was characterized by 1H-NMR and LC-MS.

reactant | (2,3-Bis-hexadecanoyloxy-propyl)-(20-hydroxy-icosyl)-dimethyl-ammonium bromide | 11.45 g | [Br-].C(CCCCCCCCCCCCCCC)(=O)OC(C[N+](C)(C)CCCCCCCCCCCCCCCCCCCCO)COC(CCCCCCCCCCCCCCC)=O
reactant | TEMPO | 0.039 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | KBr | 0.294 g | [K+].[Br-]
reactant | NaHCO3 | 1.1 g | C(=O)(O)[O-].[Na+]
solvent | sodium hypochlorite | 73.7 ml | Cl[O-].[Na+]
product | Hexadecanoic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
